US04474754
7.00 Grams of Z-Gln-NHNHBoc was dissolved in 50 ml of methanol and was catallytically reduced by using palladium as the catalyst to obtain H-Gln-NHNHBoc.

reactant | Z-Gln-NHNHBoc | N([C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H26N4O6
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | H-Gln-NHNHBoc | N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C | C10H20N4O4
